US04772600
2-(3-Bromophenyl)-3-[2-(4-methyl-1-piperazinyl)-2-oxoethyl]-3H-imidazo[4,5-b]pyridine fumarate [2:3]
A suspension of 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.00 g, 0.0090 mole), 1,1'-carbonyldiimidazole (1.46 g, 0.0090 mole) and anhydrous tetrahydrofuran (50 ml) was stirred at room temperature with a stream of nitrogen bubbling through the mixture for 3 hrs. A solution of N-methylpiperazine (0.90 g, 0.0090 mole) in 10 ml of tetrahydrofuran (dry) was added and stirring continued at room temperature overnight. The tetrahydrofuran was evaporated and the residue dissolved in methylene chloride (50 ml) and washed with water (3×25 ml), dried over sodium sulfate, and concentrated in vacuo. The residue (3.0 g) was converted to the 11/2 fumarate salt and recrystallized twice from isopropyl alcohol-isopropyl ether, giving 2.36 g (45%) of an off-white granular solid, mp 192°-194° C. with decomposition.

reactant | 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0090 mole, 3.00 g | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0090 mole, 1.46 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylpiperazine | 0.0090 mole, 0.90 g | CN1CCNCC1 | C5H12N2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-3-[2-(4-methyl-1-piperazinyl)-2-oxoethyl]-3H-imidazo[4,5-b]pyridine fumarate | 2.36 g, 45% | C(\C=C\C(=O)O)(=O)O.BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N1CCN(CC1)C | InChI=1S/C19H20BrN5O.C4H4O4/c1-23-8-10-24(11-9-23)17(26)13-25-18(14-4-2-5-15(20)12-14)22-16-6-3-7-21-19(16)25;5-3(6)1-2-4(7)8/h2-7,12H,8-11,13H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
